US06420385B1
Step B: 2-((2-(3-Trifluoromethylphenyl)phenylmethyl)-amino)-3-methyl-5-(4-fluorophenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone:
2-((2-bromophenylmethyl)amino)-5-(4-fluorophenyl)-6-(4-pyridyl)-3-methyl-4(3H)-pyrimidinone (175 mg, 0.38 mmol) was dipersed in 2M sodium carbonate solution (12 ml) and 3-trifluromethylbenzene-boronic acid (170 mg, 0.89 mmol), toluene (12 ml) were added to the above mixture and the reaction mixture was degassed and catalyst tetrakistriphenylphosphine Pd(0) (50 mg) was added. The reaction mixture was refluxed for 16 h. The formation of the product was monitored by TLC. Then it was cooled, diluted with toluene (12 ml) and washed with water. The organic layer was dried over sodium sulfate, concentrated and the product was purified by silica gel chromatgraphy to give the title compound. MS(m/z): 531.1 C30H22F4N4O requir. 530.53; 1H-NMR(CDCl3): d 8.43 (m, 2H, pyridyl), 7.69-7.12 (m, 8H, Ph), 7.11-6.88 (m, 6H, pyridyl and Ph—CF3), 4.85 (m, 3H, CH2—Ph and NH), 3.32(N—CH3)

reactant | 2-((2-bromophenylmethyl)amino)-5-(4-fluorophenyl)-6-(4-pyridyl)-3-methyl-4(3H)-pyrimidinone | 0.38 mmol, 175 mg | BrC1=C(C=CC=C1)CNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C23H18BrFN4O
reactant | 3-trifluromethylbenzene-boronic acid | 0.89 mmol, 170 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2M, 12 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 2-((2-(3-Trifluoromethylphenyl)phenylmethyl)-amino)-3-methyl-5-(4-fluorophenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone | FC(C=1C=C(C=CC1)C1=C(C=CC=C1)CNC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)(F)F | C30H22F4N4O
